US08497278B2
Tert-butyl 2-(2-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methylamino)pyrimidin-4-yl)pyrrolidine-1-carboxylate (194)
To a solution of 6-chloro-3-(chloromethyl)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride (100 mg, 0.35 mmol) in acetonitrile (25 mL) was added tert-butyl 2-(2-aminopyrimidin-4-yl)pyrrolidine-1-carboxylate (prepared according to the procedures described in WO 2007/09117 A1)(190 mg, 0.71 mmol) and freshly ground potassium carbonate (150 mg, 1.1 mmol) and the reaction mixture was heated to 60° C. for 16 h. After this time the reaction mixture was cooled to room temperature, diluted with ethyl acetate (20 mL) and washed with brine (2×20 mL). The organic layer was separated, dried over Na2SO4, concentrated and purified by column chromatography (methanol/methylene chloride) to afford the desired product. (0.10 g, 54% yield). M/e+ 523.1 for C27H28ClFN6O2 (M+H)+, 1H-NMR (500 MHz, CDCl3, δ) 8.45 (d, J=1.0 Hz, 1H), 8.28 (s, 1H), 7.77-7.74 (m, 2H), 7.58 (d, J=9.5 Hz, 1H), 7.20-7.15 (m, 3H), 6.55 (d, J=5.0 Hz, 1H), 5.18 (s, 1H), 5.07-5.01 (m, 2H), 4.62 (s, 1H), 3.61-3.52 (m, 2H), 2.34 (m, 1H), 1.98-1.94 (m, 1H), 1.91-1.86 (m, 2H), 1.26 (s, 9H) and signals due to a minor tautomer (ca. 44%): 4.77 (d, J=5.0 Hz), 1.46 (s).

reactant | 6-chloro-3-(chloromethyl)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride | 0.35 mmol, 100 mg | Cl.ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CCl
reactant | tert-butyl 2-(2-aminopyrimidin-4-yl)pyrrolidine-1-carboxylate | NC1=NC=CC(=N1)C1N(CCC1)C(=O)OC(C)(C)C | C13H20N4O2
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 2-(2-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methylamino)pyrimidin-4-yl)pyrrolidine-1-carboxylate | 54% yield | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CNC2=NC=CC(=N2)C2N(CCC2)C(=O)OC(C)(C)C | C27H28ClFN6O2
